US07868036B2
DDD (R)-2-Methyl-2-(1-methyl-piperidin-3-yl)-propionic acid
0.489 g of (R)-2-methyl-2-(1-methyl-piperidin-3-yl)-propionic acid methyl ester are taken up in 4 ml of methanol and the mixture is admixed with 4 ml of 3M NaOH. The mixture is then stirred at 60° C. for 6 hours. The methanol is removed in vacuo and the aqueous residue acidified with 2M HCl to pH 7. The mixture is concentrated under reduced pressure. The residue is taken up in 10 ml of ethanol and the insoluble salts removed by filtration. Concentration of the filtrate under reduced pressure provides the title compound as a colourless solid which can be used without further purification.

reactant | (R)-2-methyl-2-(1-methyl-piperidin-3-yl)-propionic acid methyl ester | 0.489 g | COC(C(C)([C@@H]1CN(CCC1)C)C)=O | C11H21NO2
reactant | NaOH | 3M, 4 ml | [OH-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
product | (R)-2-Methyl-2-(1-methyl-piperidin-3-yl)-propionic acid | CC(C(=O)O)(C)[C@@H]1CN(CCC1)C | C10H19NO2
